US07863293B2
Using General Procedure B: Reaction of (4-amino-butyl)-methyl-carbamic acid tert-butyl ester, 3-methyl-pyridine-2-carbaldehyde and NaBH(OAc)3 in CH2Cl2 gave {4-[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester as yellow solid. 1H NMR (CDCl3) δ 1.23-1.33 (m, 2H), 1.39-1.42 (m, 11H), 2.14 (s, 6H), 2.52 (t, 2H, J=7.0 Hz), 2.72 (s, 3H), 3.00-3.06 (m, 2H), 3.73 (s, 4H), 7.09 (dd, 2H, J=7.5, 4.9 Hz), 7.39 (d, 2H, J=7.4 Hz), 8.36 (d, 2H, J=4.1 Hz).

reactant | (4-amino-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN)=O | C10H22N2O2
reactant | 3-methyl-pyridine-2-carbaldehyde | CC=1C(=NC=CC1)C=O | C7H7NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN(CC1=NC=CC=C1C)CC1=NC=CC=C1C)=O | C24H36N4O2
